* /home/avs/esim-workspace/cmos_inverter/cmos_inverter.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 idc vin net-_m2-pad3_ net-_m2-pad3_ CMOSP W=720n L=180n M=1
m1 net-_m1-pad1_ vin gnd gnd CMOSN W=360n L=180n M=1
v2 net-_m2-pad3_ gnd  dc 1.8v
* u1  vin plot_v1
* u2  idc plot_v1
v1  vin gnd pulse(0 1.8 0 0.2n 0.2n .8n 2n)
* u3  idc net-_m1-pad1_ plot_i2
v_u3 idc net-_m1-pad1_ 0
.tran .1e-12 .2e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)
plot v(idc)
plot i(v_u3)
.endc
.end
